US05118675
The 6,7-bis(bromomethyl)quinoxaline was reacted with trimethyl phosphite to obtain the intermediate dimethyl phosphonate which was converted to α-amino-7-[(dimethoxyphosphinyl)methyl]-6-quinoxalinepropanoic acid methyl ester using N-benzylidene glycine methyl ester. Hydrolysis with 6N hydrochloric acid afforded α-amino-7-(phosphonomethyl)-6-quinoxalinepropanoic acid; m.p. 250° C.; MS (neg. FAB) 310; 1H NMR (DMSO-d6, 1 drop of DCl, 400 MHz): δ3.3-3.6 (overlapping multiplets, 4H, CH2), 4.39 (t, J=6 Hz, 1H, CH), 7.99 (d, J=3.5 Hz, 1H, ArH), 8.03 (s, 1H, ArH), 8.89 (broad s, 2H, H-2 and H-3).

reactant | α-amino-7-[(dimethoxyphosphinyl)methyl]-6-quinoxalinepropanoic acid methyl ester | COC(C(CC=1C=C2N=CC=NC2=CC1CP(=O)(OC)OC)N)=O | C15H20N3O5P
reactant | N-benzylidene glycine methyl ester | COC(CN=CC1=CC=CC=C1)=O | C10H11NO2
reactant | hydrochloric acid | 6N | Cl | ClH
product | α-amino-7-(phosphonomethyl)-6-quinoxalinepropanoic acid | NC(C(=O)O)CC=1C=C2N=CC=NC2=CC1CP(=O)(O)O | C12H14N3O5P
